US08236828B2
3-Amino-N-(4-bromo-2,6-dimethyl-phenyl)-4-cyano-benzamide (6.7 g, 19.5 mmol) (Example I3), bis(pinacolato)diboron (5.44 g, 21.4 mmol), 1,1′-bis(diphenylphosphino)-ferrocene palladium(II) dichloride (“PdCl2dppf”) (crystallised with dichloromethane 1:1) (0.318 g, 0.39 mmol), 1,1′-bis(diphenylphosphino)ferrocene (“dppf”) (0.22 g, 0.39 mmol) and potassium acetate (5.73 g, 58.38 mmol) were dissolved under an argon atmosphere in absolute dioxane (60 ml). The reaction mixture was heated to 80° C. for 18 hours. The reaction mixture was allowed to cooled ambient temperature and filtered through a plug of Celite®. The filtrate was diluted with water (100 ml) and dichloromethane (100 ml) and the phases were separated. The organic phase was washed twice with water, and aqueous phases were extracted twice with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate 4:1) to give 3-amino-4-cyano-N-[2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide (6.88 g, 90% yield). 1H-NMR (CDCl3, 400 MHz): 7.62 (s, 2H), 7.55 (d, 1H), 7.37 (m, 2H), 7.2 (d, 1H), 4.62 (s, 2H), 2.30 (s, 6H), 1.4 (s, 12H) ppm.

reactant | 3-Amino-N-(4-bromo-2,6-dimethyl-phenyl)-4-cyano-benzamide | 19.5 mmol, 6.7 g | NC=1C=C(C(=O)NC2=C(C=C(C=C2C)Br)C)C=CC1C#N | C16H14BrN3O
reactant | bis(pinacolato)diboron | 21.4 mmol, 5.44 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 58.38 mmol, 5.73 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene palladium(II) dichloride | 0.39 mmol, 0.318 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.39 mmol, 0.22 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-amino-4-cyano-N-[2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 6.88 g, 90% yield | NC=1C=C(C(=O)NC2=C(C=C(C=C2C)B2OC(C(O2)(C)C)(C)C)C)C=CC1C#N | C22H26BN3O3
